US06140274
To a mixture of 16.0 g of 4-(2,2-diethoxyethoxy)butanol, 18.9 g of 2,6-diethyl-4-benzoyloxyphenol, 20.2 g of triphenylphosphine and 200 ml of tetrahydrofuran was slowly added dropwise 17.0 g of dilsopropyl azodicarboxylate with stirring under ice cooling. After stirring at room temperature for 6 hours, the reaction mixture was concentrated. The residue was subjected to silica gel chromatography, which afforded 31.4 g of 3,5-diethyl-1-benzoyloxy-4-(4-(2,2-diethoxyethoxy)butyloxy)benzene (yield, 88%), nD24.8 1.5129.

reactant | 4-(2,2-diethoxyethoxy)butanol | 16.0 g | C(C)OC(COCCCCO)OCC | C10H22O4
reactant | 2,6-diethyl-4-benzoyloxyphenol | 18.9 g | C(C)C1=C(C(=CC(=C1)OC(C1=CC=CC=C1)=O)CC)O | C17H18O3
reactant | triphenylphosphine | 20.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylate | 17.0 g | N(=NC(=O)[O-])C(=O)[O-]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3,5-diethyl-1-benzoyloxy-4-(4-(2,2-diethoxyethoxy)butyloxy)benzene | 31.4 g, 88% | C(C)C=1C=C(C=C(C1OCCCCOCC(OCC)OCC)CC)OC(C1=CC=CC=C1)=O | C27H38O6
